US09428510B2
100 mg (0.173 mmol) of N-(5-(3,5-difluorophenylthio)-1-H-pyrazolo[3,4-b]pyridine-3-yl)-4-(4-methylpiperazine-1-yl)-2-(tetrahydro-2H-pyran-4-ylamino)benzamide is added, in small fractions, to a solution of 19.64 mg (0.518 mmol) of LiAlH4 in 3 ml of anhydrous tetrahydrofuran under argon at 0° C. The reaction mixture is heated at 90° C. for 15 hours. An additional portion of 20 mg of LiAlH4 is then added and the reaction medium stirred at 90° C. for 5 hours. 45 μl of water at 0° C. is then added to the reaction mixture, followed by 45 μl of sodium hydroxide (15% wt) and finally 120 μl of water. The reaction mixture is stirred at 25° C. for 1 hour and then filtered on Dicalite. After evaporation of the solvents, the crude product is purified by chromatography. 16.80 mg (17%) of 5-(3,5-difluorophenylthio)-N-(4-(4-methylpiperazin-1-yl)-2-(tetrahydro-2H-pyran-4-ylamino)benzyl)-1H-pyrazolo[3,4-b]pyridin-3-amine in the form of a yellow solid is obtained.

reactant | N-(5-(3,5-difluorophenylthio)-1-H-pyrazolo[3,4-b]pyridine-3-yl)-4-(4-methylpiperazine-1-yl)-2-(tetrahydro-2H-pyran-4-ylamino)benzamide | 0.173 mmol, 100 mg | FC=1C=C(C=C(C1)F)SC=1C=C2C(=NC1)NN=C2NC(C2=C(C=C(C=C2)N2CCN(CC2)C)NC2CCOCC2)=O | C29H31F2N7O2S
reactant | LiAlH4 | 0.518 mmol, 19.64 mg | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | LiAlH4 | 20 mg | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | water | 45 μl | O | H2O
reactant | sodium hydroxide | 45 μl | [OH-].[Na+]
reactant | water | 120 μl | O | H2O
solvent | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
product | 5-(3,5-difluorophenylthio)-N-(4-(4-methylpiperazin-1-yl)-2-(tetrahydro-2H-pyran-4-ylamino)benzyl)-1H-pyrazolo[3,4-b]pyridin-3-amine | 16.80 mg, 17% | FC=1C=C(C=C(C1)F)SC=1C=C2C(=NC1)NN=C2NCC2=C(C=C(C=C2)N2CCN(CC2)C)NC2CCOCC2 | C29H33F2N7OS
